US05100891
A 0.75 g portion of the cyclopropylaminoindole compound was dissolved in 75 ml Et2O and stirred while a solution of 0.69 g of 2-naphthalene sulfonic acid in 50 ml Et2O was added slowly. A white precipitate formed which was filtered under N2, washed with 2×50 ml Et2O and dried to afford 1.04 g of 4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol-3-cyclopropylamine 2-naphthalene sulfonate.

reactant | cyclopropylaminoindole | C1(CC1)NC=1NC2=CC=CC=C2C1 | C11H12N2
reactant | 2-naphthalene sulfonic acid | 0.69 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
reactant | Et2O | 75 ml | CCOCC | C4H10O
reactant | Et2O | 50 ml | CCOCC | C4H10O
product | 4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol 3-cyclopropylamine 2-naphthalene sulfonate | 1.04 g | CN1C2=C(C=3C=CC=CC13)CCC2.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O.C1CC1N | InChI=1S/C12H13N.C10H8O3S.C3H7N/c1-13-11-7-3-2-5-9(11)10-6-4-8-12(10)13;11-14(12,13)10-6-5-8-3-1-2-4-9(8)7-10;4-3-1-2-3/h2-3,5,7H,4,6,8H2,1H3;1-7H,(H,11,12,13);3H,1-2,4H2
